US08426540B2
Using 2-amino-4-chlorophenol and 5-(4-chlorophenyl)furan-2-carbaldehyde, 3.18 g of 4-chloro-2-{[5-(4-chlorophenyl)furan-2-yl]methyleneamino}phenol were obtained as a yellow powder (yield 95%).

reactant | 2-amino-4-chlorophenol | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | 5-(4-chlorophenyl)furan-2-carbaldehyde | ClC1=CC=C(C=C1)C1=CC=C(O1)C=O | C11H7ClO2
product | 4-chloro-2-{[5-(4-chlorophenyl)furan-2-yl]methyleneamino}phenol | 3.18 g | ClC1=CC(=C(C=C1)O)N=CC=1OC(=CC1)C1=CC=C(C=C1)Cl | C17H11Cl2NO2
